Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]1[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],4.77415350746
[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.94836808021
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[H:8].[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7],3.98832599627
[H:5].[O:1]=[C:2]([H:3])[C:4][O:6][C:7]#[C:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]#[C:8][H:9],-5.010101594630001
[C:5]([H:6])=[C:7]([H:8])[O:9][O:10][H:11].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][O:10][H:11],-2.27516093683
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12]1>>[H:1][C:2](=[C:3][H:4])[O:12][C:11][C:8]([C:5]([H:6])[H:7])([H:9])[H:10],4.20184901952
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9],1.95766241696
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-5.40922826337
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][O:3],0.272492843941
[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.03929380398
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.06709441446
[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-8.489876974
[C:9]#[C:10][H:11].[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-2.9460601275700005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],4.41576982998
[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:5].[O:1][O:2][C:3]([H:4])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],3.25217654437
[C:1]#[C:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2].[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],6.893360691080001
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],2.03965447819
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:13](\[H:14])[C:15]([H:16])([H:17])[H:18],1.77298633398
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]=[O:8].[H:9]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[O:8][H:9],-1.38596791717
[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[O:5][O:6],2.89865944606
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9].[H:10],2.03043433896
[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]1([C:7]([H:8])([H:9])[H:10])[C:11][C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])=[C:11]=[C:12]([H:13])[H:14],-2.9351059797600003
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.87561075843
[O:1].[O:2]=[C:3][H:4]>>[O:1][O:2][C:3][H:4],0.65912319401
[H:1].[O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.42749499155
[H:1][C:2]([H:3])=[C:4]1[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])[H:7])[C:12]([C:10](=[C:8][H:9])[H:11])([H:13])[H:14],3.59822393311
[H:1][C:2][O:3][C:4]#[C:6][O:7][C:8]([H:9])[H:10].[H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10],-3.39881801774
[C:1]#[C:2][C:3][C:4]([H:5])[H:6]>>[C:1]#[C:2].[C:3]=[C:4]([H:5])[H:6],7.09502164785
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:4].[O:1]=[C:2]([H:3])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],1.0425789908399998
